US07615642B2
1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-isopropyl-1H-pyrazole-4-carboxamide
Following the same procedure in Example 24, Step A, using iso-propylamine (9 mg, 0.15 mmol), DIPEA (28 uL, 21 mg, 0.16 mmol), 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid (0.073 mmol) and HATU (44 mg, 0.12 mmol) in DMF (2.5 mL). The crude product was purified by MPLC using Hex/EtOAc (1:2) on silica gel to give 25 mg (70%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.17 (d, J=6.45 Hz, 6 H), 1.40-1.56 (m, 4 H), 1.59 (s, 9 H), 2.18-2.40 (m, 1 H), 3.23-3.39 (m, 2 H), 3.81-3.96 (m, 2 H), 4.02-4.18 (m, 1 H), 4.41 (d, J=7.42 Hz, 2 H), 7.91 (d, J=8.8 Hz, 1 H), 7.98 (dd, J=8.8, 1.8 Hz, 1 H), 8.04 (s, 1 H), 8.33 (d, J=1.76 Hz, 1 H), 8.77 (d, J=0.78 Hz, 1 H); MS (ESI) (M+H)+=488.0; Anal. Calcd for C24H33N5O4S+0.70 TFA+0.50 EtOAc+0.40H2O (624.71): C, 53.64; H, 6.21; N, 11.21. Found: C, 53.58; H, 6.23; N, 11.28.

reactant | iso-propylamine | 0.15 mmol, 9 mg | C(C)(C)N | C3H9N
reactant | DIPEA | 0.16 mmol, 28 uL, 21 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid | 0.073 mmol | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C21H26N4O5S
reactant | HATU | 0.12 mmol, 44 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-isopropyl-1H-pyrazole-4-carboxamide | 25 mg, 70% | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)NC(C)C | C24H33N5O4S
